US04476311
(C) 1-Benzyl-2-(2,6-dichlorophenyl)-3-tosyloxymethyl-pyrrolidin-5-one
To 40 g of 1-benzyl-2-(2,6-dichlorophenyl)-3-hydroxymethyl-pyrrolidine-5-one in 67 ml of potassium dried pyridine at 5°-10° was added 23.3 g of tosyl chloride over 30 minutes. After the addition, the mixture was stirred for 3 hours at 15° and then for 13 hours at ambient temperature. The reaction mixture was added dropwise to a stirred ice-water solution and then set at ambient temperature for 72 hours. The light yellow solid was collected by filtration and then air dried. Trituration with ether followed by filtration provided 44.5 g of colorless crystals, m.p. 110°-114°.

reactant | 1-benzyl-2-(2,6-dichlorophenyl)-3-hydroxymethyl-pyrrolidine-5-one | 40 g | C(C1=CC=CC=C1)N1C(C(CC1=O)CO)C1=C(C=CC=C1Cl)Cl | C18H17Cl2NO2
reactant | tosyl chloride | 23.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | potassium | 67 ml | [K] | K
product | 1-Benzyl-2-(2,6-dichlorophenyl)-3-tosyloxymethyl-pyrrolidin-5-one | 44.5 g | C(C1=CC=CC=C1)N1C(C(CC1=O)COS(=O)(=O)C1=CC=C(C)C=C1)C1=C(C=CC=C1Cl)Cl | C25H23Cl2NO4S
